US06743802B2
Following the procedure of example 19, but substituting the 1-(3-ethynylphenyl)-1,4-dihydro[1,8]naphthyridin4-one-3-carboxamide from Step 3 for N-Isopropyl-1-(3-ethynylphenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide and 3-bromopyridine N-oxide for 3-bromoquinoline, the 1-[3-(1-oxido-3-pyridinylethynyl)phenyl]-1,4-dihydro[1,8]naphthyridin4-one-3-carboxamide was obtained as a white solid.

reactant | N-Isopropyl-1-(3-ethynylphenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | C(C)(C)NC(=O)C1=CN(C2=NC=CC=C2C1=O)C1=CC(=CC=C1)C#C | C20H17N3O2
reactant | 3-bromopyridine N-oxide | BrC=1C=[N+](C=CC1)[O-] | C5H4BrNO
reactant | 3-bromoquinoline | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
product | 1-[3-(1-oxido-3-pyridinylethynyl)phenyl]-1,4-dihydro[1,8]naphthyridin4-one-3-carboxamide | [O-][N+]1=CC(=CC=C1)C#CC=1C=C(C=CC1)N1C=C(C(C2=CC=CN=C12)=O)C(=O)N | C22H14N4O3
